US09315475B2
Step 1: Preparation of tert-butyl (2R,5S)-2-[(2-aminopyridin-3-yl)ethynyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate
A solution of tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-ethynylmorpholine-4-carboxylate (1 eq) and 3-bromopyridin-2-amine (1.4 eq) in acetonitrile (0.1M) and triethylamine (25 eq) was flushed with nitrogen for 10 minutes. Then bis(triphenylphosphine)palladium(ii) chloride (0.1 eq) and copper(i) iodide (1.2 eq) were added and the mixture was flushed again with nitrogen for 10 minutes. The reaction mixture was stirred at 60° C. for 2 hours in the dark. It was concentrated to dryness and the residue was purified by automated SiO2 flash chromatography system using solvent gradient of 0% to 10% MeOH/CH2Cl2 to afford the desired compound.

reactant | tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-ethynylmorpholine-4-carboxylate | 1 eq | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)C#C | C18H33NO4Si
reactant | 3-bromopyridin-2-amine | 1.4 eq | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | triethylamine | 25 eq | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 0.1M | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(ii) chloride | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(i) iodide | 1.2 eq | [Cu]I
product | tert-butyl (2R,5S)-2-[(2-aminopyridin-3-yl)ethynyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | NC1=NC=CC=C1C#C[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C23H37N3O4Si
